US05217964
Dissolve 1,9-diazanonane (13 g, 0.1 mol) in pyridine (200 mL) and cool to 0° C. Add, by dropwise addition, benzoyl chloride (31 g, 0.22 mol) and stir overnight. Extract into chloroform, wash with water, 5% hydrochloric acid, 5% sodium hydroxide, water and dry (MgSO4). Evaporate the solvent in vacuo and purify by silica gel chromatography to give 1,9-bis(benzoyl)-1,9-diazanonane.

reactant | 1,9-diazanonane | 0.1 mol, 13 g | NCCCCCCCN | C7H18N2
reactant | benzoyl chloride | 0.22 mol, 31 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 1,9-bis(benzoyl)-1,9-diazanonane | C(C1=CC=CC=C1)(=O)NCCCCCCCNC(C1=CC=CC=C1)=O | C21H26N2O2
